US04242352
40.26 g (0.18 mol) of (2,6-dichlorophenyl)-acetyl chloride and 15 g (0.198 mol) of ammonium thiocyanate are heated for about 10 minutes in 500 ml of acetone. The cooled mixture is filtered, the solid is washed with acetone and the filtrate is evaporated to dryness. Dry ether is added to the oily residue. A yellow crystalline solid is formed and is filtered off. The filtrate is evaporated to dryness. 2,6-Dichlorophenacyl isothiocyanate is obtained in the form of an orange-red oil.

reactant | (2,6-dichlorophenyl)-acetyl chloride | 0.18 mol, 40.26 g | ClC1=C(C(=CC=C1)Cl)CC(=O)Cl | C8H5Cl3O
reactant | ammonium thiocyanate | 0.198 mol, 15 g | [S-]C#N.[NH4+]
reactant | acetone | 500 ml | CC(=O)C | C3H6O
product | 2,6-Dichlorophenacyl isothiocyanate | ClC1=C(C(CN=C=S)=O)C(=CC=C1)Cl | C9H5Cl2NOS
